US07582629B2
2-Butyl-4-[(hydroxyphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.110 g, 0.33 mmol), 4-hydroxyaniline hydrochloride (0.144 g, 0.99 mmol) and TEA (0.14 ml, 0.991 mmol) in DMF (0.5 ml) was heated at 140° C. for 25 mins in a microwave reactor. The mixture was purified by preparative HPLC (column Ace C8, 0.1M NH4OAc/MeCN, gradient) to give the title compound (0.074 g, 57%); 1H NMR 400 MHz (CDCl3) 7.26-7.20 (m, 2H), 7.18-7.14 (m, 3H), 7.08 (s, 1H), 6.62 (d, 2H), 6.48 (d, 2H), 3.78 (t, 2H), 1.91-1.84 (m, 2H), 1.53-1.45 (m, 2H), 1.02 (t, 3H); Mass Spectrum: M+H 373.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.33 mmol, 0.110 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 4-hydroxyaniline hydrochloride | 0.99 mmol, 0.144 g | Cl.OC1=CC=C(N)C=C1
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 2-Butyl-4-[(hydroxyphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.074 g, 57% | C(CCC)N1S(C(=C(C1=O)NC1=C(C=CC=C1)O)C1=CC=CC=C1)(=O)=O | C19H20N2O4S
